** sch_path: /foss/designs/thesis/workspace/thesis_hp/cace/_runs/RUN_2025-06-07_01-35-42/parameters/tran_params/run_075/foldedcascode-nmos-tran.sch
**.subckt foldedcascode-nmos-tran
Vss v_ss GND 0
Vdd v_dd GND 1.45
Vin v_in v_ss 0.8
.save v(v_in)
I0 v_dd net1 dc 0 pwl(0 0 1.1u 0 1.2u 9.999999999999999e-06)
C1 v_out v_ss 2e-12 m=1
.save v(v_out)
x1 v_dd v_in v_out v_out net1 v_ss foldedcascode_nmos
**** begin user architecture code


.include /foss/designs/thesis/workspace/thesis_hp/cace/netlist/schematic/foldedcascode_nmos.spice
.temp 130
.param mc_ok = 1
.option SEED=12345

.ic v(v_out)=0
.option method=gear

.control
set num_threads=1
tran 0.005u 15u uic

let vout_limit=0.8*0.9
meas tran tcross WHEN v(v_out)=vout_limit


let tstart=0
let tsettle=tcross-tstart

echo $&tsettle > /foss/designs/thesis/workspace/thesis_hp/cace/_runs/RUN_2025-06-07_01-35-42/parameters/tran_params/run_075/foldedcascode-nmos-tran_75.data
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
